US05066819
To a solution of 2-sec butylphenol (1.5 g, 0.01 mole) and ethyl N-methylcarbamate (1.03 g, 0.01 mole) was added phosphorus tribromide (2.7 g, 0.01 mole) and the contents were heated at 140° C. for 15 hours. The reaction mixture was worked up as described earlier to give 2-sec butylphenyl N-methylcarbamate, identified by spectral data.

reactant | butylphenol | 0.01 mole, 1.5 g | C(CCC)C1=C(C=CC=C1)O | C10H14O
reactant | ethyl N-methylcarbamate | 0.01 mole, 1.03 g | CNC(OCC)=O | C4H9NO2
reactant | phosphorus tribromide | 0.01 mole, 2.7 g | P(Br)(Br)Br | Br3P
product | butylphenyl N-methylcarbamate | CNC(OC1=C(C=CC=C1)CCCC)=O | C12H17NO2
